US08106064B2
2,4-Bis-benzyloxy-5-isopropyl-6-(2,3,5-trimethyl-phenoxy)-pyrimidine:
Sodium hydride (60%, 81 mg, 1.98 mmol. 3 eq.) was added to benzyl alcohol (205 μl, 1.98 mmol, 3 eq.) in 10 mL DMF. The mixture was stirred at room temperature for 15 minutes and then added to 2,4-dichloro-5-isopropyl-6-(2,3,5-trimethyl-phenoxy)-pyrimidine (320 mg, 0.66 mmol, 1 eq.). The reaction was heated to 70° C. for 1 hour. The reaction was cooled down to room temperature. Ethyl acetate was added and washed with brine. The organic layer was concentrated down and purified (silica gel, 0-50% EtOAC/hexane) to give white solid (260 mg, 84%). LC-MS shows 469.2 (M+1). 1H NMR (300 MHz, CDCl3): δ 7.3-7.5 (m, 10H), 6.91 (s, 1H), 6.72 (s, 1H), 5.41 (m, 4H), 3.48 (m, 1H), 2.38 (s, 6H), 2.0 (s, 3H), 1.36 (d, 6H).

reactant | Sodium hydride | 1.98 mmol, 81 mg, 3 eq. | [H-].[Na+]
reactant | benzyl alcohol | 1.98 mmol, 205 μl, 3 eq. | C(C1=CC=CC=C1)O | C7H8O
reactant | 2,4-dichloro-5-isopropyl-6-(2,3,5-trimethyl-phenoxy)-pyrimidine | 0.66 mmol, 320 mg, 1 eq. | ClC1=NC(=C(C(=N1)Cl)C(C)C)OC1=C(C(=CC(=C1)C)C)C | C16H18Cl2N2O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2,4-Bis-benzyloxy-5-isopropyl-6-(2,3,5-trimethyl-phenoxy)-pyrimidine | 260 mg, 84% | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)OCC1=CC=CC=C1)C(C)C)OC1=C(C(=CC(=C1)C)C)C | C30H32N2O3
